US05036107
1-Cyclohexyl-1-phenyl-1-trimethylsilyloxypropan-2-one
1-Cyclohexyl-1-hydroxy-1-phenylpropan-2-one (15.44 g, 66.5 mmole) was added to 35 ml of DMF. To this solution was then added bis(trimethylsilyl)acetamide (16.2 g, 79.7 mmole) and the reaction mixture was stirred at 130° C. under argon for 12 hours. The mixture was cooled and ether (100 ml) was added. The solution was washed twice with water, dried and evaporated to dryness under vacuum. Distillation by a Kugelruhr apparatus at 100° C. afforded a yellow oil (19.86 g, 98.1%). NMR (CDCl3) δ7.6-7.2(m, 5H), 2.1(s, 3H), 2.4-0.9(m, 11H), 0.2(s, 9H). IR (neat) 1718, 1250, cm-1.

reactant | 1-Cyclohexyl-1-hydroxy-1-phenylpropan-2-one | 66.5 mmole, 15.44 g | C1(CCCCC1)C(C(C)=O)(C1=CC=CC=C1)O | C15H20O2
reactant | DMF | 35 ml | CN(C)C=O | C3H7NO
reactant | bis(trimethylsilyl)acetamide | 79.7 mmole, 16.2 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Cyclohexyl-1-phenyl-1-trimethylsilyloxypropan-2-one | 19.86 g, 98.1% | C1(CCCCC1)C(C(C)=O)(O[Si](C)(C)C)C1=CC=CC=C1 | C18H28O2Si
